US07317037B2
7-Fluoro-3,3-dimethyl-1,3-dihydro-2H-indol-2-one (4.1 g, 22.9 mmol) was dissolved in dichloromethane (100 mL) and acetic acid (2 mL) at room temperature. Bromine (1.2 mL, 23 mmol) was added and the solution allowed to stir for 24 hours. The reaction mixture was poured into sodium thiosulfate solution, extracted with diethyl ether, dried (MgSO4), evaporated and the crude product triturated with hexane to give 5-bromo-7-fluoro-3,3-dimethyl-1,3-dihydro-2H-indol-2-one (4.84 g, 82%): HRMS: calc'd for C10H9BrFNO, 256.9852; found (ESI, [M−H]−), 255.9781.

reactant | 7-Fluoro-3,3-dimethyl-1,3-dihydro-2H-indol-2-one | 22.9 mmol, 4.1 g | FC=1C=CC=C2C(C(NC12)=O)(C)C | C10H10FNO
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | Bromine | 23 mmol, 1.2 mL | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 5-bromo-7-fluoro-3,3-dimethyl-1,3-dihydro-2H-indol-2-one | 4.84 g, 82% | BrC=1C=C2C(C(NC2=C(C1)F)=O)(C)C | C10H9BrFNO
